US06835732B2
5-Methyl-thiophene-2-carboxylic acid [4-methoxy-7-(2-methyl-pyridin-4-yl)-benzothiazol-2-yl]-amide is synthesized from 5-methyl-thiophene-2-carboxylic acid (4-methoxy-7-iodo-benzothiazol-2-yl)-amide (260 mg, 0.60 mmol) and 2-methyl-4-trimethylstannanyl-pyridine (384 mg, 0.90 mmol) using the general procedure B as a light yellow solid in 50% yield. MS: m/e=396 (M+H+).

reactant | 5-methyl-thiophene-2-carboxylic acid (4-methoxy-7-iodo-benzothiazol-2-yl)-amide | 0.60 mmol, 260 mg | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)I | C14H11IN2O2S2
reactant | 2-methyl-4-trimethylstannanyl-pyridine | 0.90 mmol, 384 mg | CC1=NC=CC(=C1)[Sn](C)(C)C
product | 5-Methyl-thiophene-2-carboxylic acid [4-methoxy-7-(2-methyl-pyridin-4-yl)-benzothiazol-2-yl]-amide | 50% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)C2=CC(=NC=C2)C | C20H17N3O2S2
